US06225311B1
To a solution of 0.5 g (2.6 mmol) of 4-hydroxybenzenesulfonyl chloride (J. Org. Chem. 1973, 38, 1047) in 5 mL of chloroform at room temperature was added 0.706 mL (2.86 mmol) of N,O-bis(trimethylsilyl)acetamide. The reaction mixture was stirred for 1 h and added a solution of 0.41 g (2.16 mmol) of methyl (3S)-2,2-dimethyl-3-thiomorpholinecarboxylate in 1 mL of chloroform in one portion, followed by 0.48 mL (4.37 mmol) of N-methylmorpholine. The resulting mixture was stirred for 18 h and 10 mL of methanol was added and the resulting mixture was heated to reflux for 1 h. The reaction was diluted with ethyl acetate, washed with water, 5% HCl and brine, dried over MgSO4 filtered and concentrated in vacuo. The residue was triturated with ether:hexanes (1:2) to provide 0.62 g (83%) of 4-(4-hydroxy-benzenesulfonyl)-2,2-dimethyl-thiomorpholine-3- carboxylic acid methyl ester as a pale yellow solid. Electrospray Mass Spec: 344.4 (M−H)−

reactant | 4-hydroxybenzenesulfonyl chloride | 2.6 mmol, 0.5 g | OC1=CC=C(C=C1)S(=O)(=O)Cl | C6H5ClO3S
reactant | N,O-bis(trimethylsilyl)acetamide | 2.86 mmol, 0.706 mL | C/C(=N\[Si](C)(C)C)/O[Si](C)(C)C | C8H21NOSi2
reactant | methyl (3S)-2,2-dimethyl-3-thiomorpholinecarboxylate | 2.16 mmol, 0.41 g | CC1([C@@H](NCCS1)C(=O)OC)C | C8H15NO2S
reactant | N-methylmorpholine | 4.37 mmol, 0.48 mL | CN1CCOCC1 | C5H11NO
solvent | chloroform | 5 mL | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 1 mL | C(Cl)(Cl)Cl | CHCl3
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methanol | 10 mL | CO | CH4O
product | 4-(4-hydroxy-benzenesulfonyl)-2,2-dimethyl-thiomorpholine-3- carboxylic acid methyl ester | 0.62 g, 83% | COC(=O)C1N(CCSC1(C)C)S(=O)(=O)C1=CC=C(C=C1)O | C14H19NO5S2
